Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mrs. ___ is a ___ woman with obstructive sleep 
apnea, fibromyalgia and dyslipidemia who presents wth substernal 
chest pressure that started about 3 days prior to presentation.  

She reports that she awoke ___ morning with a pain in the 
___ her chest. It hurt worse when she touched it. She 
describes the pain as a deep ache. It worsened with exertion 
only because it meant she was moving her chest. There was no 
associated shortness of breath, diaphoresis or nausea. She has 
had a dry cough, and the pain is slightly worse with deep 
inspiration. It is not worsened by the coughing.  
.  
She denies fevers, chills or sweats. She denies weight loss. She 
denies lower extremity swelling, orthopnea or PND.  
.  
In the ED, she reportedly had a 5-beat run of VT during which 
she felt palpitations, so she was admitted to the floor.  
.  
All other review of systems negative.
 
Past Medical History:
Sleep apnea  
Fibromyalgia  
Dyslipidemia
 
Social History:
___
Family History:
No premature CAD, SCD
 
Physical Exam:
97.2, 145/99, 76, 20, 97% RA  
General: Awake, alert, NAD, pleasant, appropriate, cooperative.  

HEENT: NCAT, PERRL, EOMI, no scleral icterus, MMM, no lesions 
noted in OP  
Neck: supple, no significant JVD or carotid bruits appreciated  
Pulmonary: Lungs CTA bilaterally, no wheezes, ronchi or rales  
Cardiac: RR, nl S1, physiologically split S2, no murmurs, rubs 
or gallops appreciated  
Abdomen: soft, NT, ND, normoactive bowel sounds, no masses or 
organomegaly noted  
Extremities: No edema, 2+ radial, DP pulses b/l  
Lymphatics: No cervical, supraclavicular, axillary or inguinal 
lymphadenopathy noted  
Skin: no rashes or lesions noted.  
Neurologic: Alert, oriented x 3. Able to relate history without 
difficulty. Cranial nerves II-XII intact. Normal bulk, strength 
and tone throughout. 
 
Pertinent Results:
LABS ON ADMISSION/DISCHARGE:
___ 01:08PM BLOOD WBC-7.9 RBC-4.12* Hgb-11.9* Hct-36.7 
MCV-89 MCH-28.8 MCHC-32.3 RDW-13.8 Plt ___
___ 01:08PM BLOOD Neuts-58.5 ___ Monos-4.1 Eos-3.4 
Baso-0.6
___ 01:08PM BLOOD Plt ___
___ 01:08PM BLOOD ___ PTT-27.7 ___
___ 01:08PM BLOOD Glucose-114* UreaN-10 Creat-0.7 Na-136 
K-4.0 Cl-101 HCO3-28 AnGap-11
___ 07:15AM BLOOD CK(CPK)-138
___ 01:08PM BLOOD cTropnT-<0.01
___ 07:00PM BLOOD cTropnT-<0.01
___ 07:15AM BLOOD CK-MB-1 cTropnT-<0.01
___ 01:08PM BLOOD Calcium-9.7 Phos-2.8 Mg-2.0
___ 01:17PM BLOOD D-Dimer-406
.
IMAGING:
CXR: IMPRESSION: No acute cardiopulmonary process.
 
Brief Hospital Course:
___ y/o female with dyslipidemia presents with chest pain. 
.  
## Chest pain: Has been ongoing for 3 days without any rise in 
cardiac biomarkers, arguing strongly against acute coronary 
syndrome. EKG without acute ischemic changes. Telemetry without 
events. Reproducible on exam, and with a pleuritic component. No 
rub to suggest pericarditis. Most c/w costochonditis, which the 
pt reports having had before. Also possibly a pericarditis 
component given pleuritic nature of pain and subtle ST-segment 
changes, although there is no rub on exam. Patient was ruled out 
for myocardial infarction. Given low pre-test probabaility, 
inpatient stress testing was deferred. Outpatient stress testing 
can be discussed with primary care provider. Patient was placed 
on high-dose aspirin (650 mg bid) for suspected costochondritis 
with improvement in her pain. On discharge, she was informed 
that she may continue up to 800 mg ibuprofen tid. She was 
informed that if her pain worsens or changes in character, she 
is to seek repeat medical evaluation.
.  
## Dyslipidemia: Continued simvastatin
.
## Dispo: discharged to home, PCP ___
 
Medications on Admission:
Albuterol Sulfate prn  
Simvastatin 80 mg daily  
Omeprazole 40 mg daily  
Ibuprofen 800 mg tid  
Vitamin D 50,000 unit weekly  
Loratadine 10 mg daily prn  
Budesonide daily  
Montelukast 10 mg daily  
Gabapentin 300 mg qhs prn 
 
Discharge Medications:
1. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q6H (every 6 hours) as needed for shortness 
of breath.  
2. Simvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. Ibuprofen 800 mg Tablet Sig: One (1) Tablet PO three times a 
day as needed for pain.  
5. Vitamin D 50,000 unit Capsule Sig: One (1) Capsule PO once a 
week.  
6. Loratadine 10 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for cold symptoms.  
7. Budesonide 180 mcg/Inhalation Aerosol Powdr Breath Activated 
Sig: Two (2) puffs inhaled Inhalation once a day.  
8. Montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
1. chest discomfort, felt to be costochondritis
.
SECONDARY:
1. Sleep apnea  
2. Fibromyalgia  
3. Dyslipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for chest pain. You were 
monitored on telemetry without events. Your EKG was unchanged 
from prior. Your heart enzymes were normal suggesting that you 
did not have a heart attack or heart damage. You likely have 
costochondritis, a condition which you have had before. For 
this, you may take ibuprofen (up to 800 mg three times a day) as 
needed for pain.
.
Please call your primary care doctor to discuss utility of 
stress testing as an outpatient.
.
NEW MEDICATIONS/MEDICATION CHANGES
- no prescriptions were provided, but it is acceptable to take 
over the counter ibuprofen, up to 800 mg three times a day for 
your chest discomfort
.
Please seek medical attention for worsening chest pain, fevers, 
chills, abdominal pain, shortness of breath, or any other 
concerns.
 
Followup Instructions:
___